US08629143B2
5-phenylpyrido[2,3-d]pyridazin-8-ol
A mixture of 3-benzoylpicolinic acid (0.272 g, 0.120 mmol) and hydrazine hydrate (0.17 mL, 0.37 mmol) in EtOH (3.3 mL) was stirred at 80° C. overnight, concentrated, diluted with saturated aqueous NaHCO3, extracted with CH2Cl2, dried (Na2SO4), and concentrated to give the title compound as a white solid (0.28 g, 0.12 mmol). 1H NMR (300 MHz, DMSO-d6) δ 13.09 (s, 1H), 9.10 (dd, 1H), 8.09 (dd, 1H), 7.88 (dd, 1H), 7.54-7.63 (m, 5H).

reactant | 3-benzoylpicolinic acid | 0.120 mmol, 0.272 g | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)C(=O)O | C13H9NO3
reactant | hydrazine hydrate | 0.37 mmol, 0.17 mL | O.NN
solvent | EtOH | 3.3 mL | CCO | C2H6O
product | 5-phenylpyrido[2,3-d]pyridazin-8-ol | 0.12 mmol, 0.28 g | C1(=CC=CC=C1)C1=C2C(=C(N=N1)O)N=CC=C2 | C13H9N3O
